US08067445B2
Step 1: (2′-{[Ethyl-(4-fluoro-benzyloxycarbonyl)-amino]-methyl}-5,4′-bis-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester
Prepared according to the procedure described in Example 1, Step 4, using the following starting materials: ethyl-[2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-5-trifluoromethyl-benzyl]-carbamic acid 4-fluoro-benzyl ester and (3-trifluoromethanesulfonyloxy-5-trifluoromethyl-phenyl)-acetic acid methyl ester.

reactant | ethyl-[2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-5-trifluoromethyl-benzyl]-carbamic acid 4-fluoro-benzyl ester | FC1=CC=C(COC(N(CC2=C(C=CC(=C2)C(F)(F)F)B2OC(C(O2)(C)C)(C)C)CC)=O)C=C1 | C24H28BF4NO4
reactant | (3-trifluoromethanesulfonyloxy-5-trifluoromethyl-phenyl)-acetic acid methyl ester | COC(CC1=CC(=CC(=C1)C(F)(F)F)OS(=O)(=O)C(F)(F)F)=O | C11H8F6O5S
product | (2′-{[Ethyl-(4-fluoro-benzyloxycarbonyl)-amino]-methyl}-5,4′-bis-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester | COC(CC=1C=C(C=C(C1)C(F)(F)F)C1=C(C=C(C=C1)C(F)(F)F)CN(C(=O)OCC1=CC=C(C=C1)F)CC)=O | C28H24F7NO4
